US05883294
A solution of 1-(2,6-dimethyl-4-methoxyphenyl)-1-(3-isopropyl-4-methoxyphenyl) ethanol (400 mg, 1.218 mmol) in 4.4 mL of 9% (v/v) AcOH in EtOH containing 10% Pd/C (40 mg) was hydrogenated at 1 atm at room temperature. When hydrogen uptake was complete (12 hours), the catalyst was filtered off and the filtrate was diluted with 50 mL of ether, washed with sat. NaHCO3 solution (3×10 mL), water (30 mL) and brine (3×10 mL). The solvent was evaporated to yield 300 mg (0.96 mmol, 79%) of 1-(2,6-dimethyl-4-methoxyphenyl)-1-(3-isopropyl-4-methoxyphenyl) ethane as an oil. This material was used in the next step without further purification; 1HNMR (CDCl3) & 1.16 (dd, 6H), 1.63 (d, 3H), 2.12 (s, 6H), 3.27 (heptet, 1H), 3.81 (s, 6H), 4.54 (q, 1H), 6.54 (s, 2H), 6.75 (d, 1H), 6.88 (d, 1H), 7.04 (s, 1H).

reactant | 1-(2,6-dimethyl-4-methoxyphenyl)-1-(3-isopropyl-4-methoxyphenyl) ethanol | 1.218 mmol, 400 mg | CC1=C(C(=CC(=C1)OC)C)C(C)(O)C1=CC(=C(C=C1)OC)C(C)C | C21H28O3
reactant | AcOH | CC(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 40 mg | CCO | C2H6O
product | 1-(2,6-dimethyl-4-methoxyphenyl)-1-(3-isopropyl-4-methoxyphenyl) ethane | 0.96 mmol, 300 mg, 79% | CC1=C(C(=CC(=C1)OC)C)C(C)C1=CC(=C(C=C1)OC)C(C)C | C21H28O2
